### PR TITLE
feat(dominance): Define operation and block dominance

### PR DESCRIPTION
**Pull request by math-fehr**
These definitions follow compcertssa definition of dominance (https://compcertssa.gitlabpages.inria.fr/html/compcert.midend.Dom.html) but extended for MLIR's hierarchical dominance.

This PR only contains the definitions, and do not replace yet the `axiom` in `Dominance.lean`, nor introduce lemmas about it.

### CODE REVIEW

File: Veir/Dominance/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
...
+dominator and dominated blocks as its first and last elements, respectively. Every block
+in the path has `region` as its parent, and every consecutive pair is related by
+a CFG edge.
+-/
+inductive RegionPtr.Path (region : RegionPtr) (ctx : WfIRContext OpInfo) :
+    BlockPtr → BlockPtr → List BlockPtr → Prop where
+  | single {block : BlockPtr}
+      (parent : (block.get! ctx.raw).parent = some region) :
+      region.Path ctx block block [block]
+  | cons {dominator next dominated : BlockPtr} {blocks : List BlockPtr}
```
Comment (ineol) [inline Veir/Dominance/Basic.lean]: I don't think we should use dominator/dominated in this definition?

File: Veir/Dominance/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+  ∃ region,
+    (dominator.get! ctx.raw).parent = some region ∧
+    (dominated.get! ctx.raw).parent = some region ∧
+    ∀ entry blocks,
+      (region.get! ctx.raw).firstBlock = some entry →
+      region.Path ctx entry dominated blocks →
+      dominator ∈ blocks
+
+/-- Proper dominance between blocks. It is defined as dominance plus inequality. -/
+def BlockPtr.ProperlyDominates (dominator dominated : BlockPtr)
```
Comment (ineol) [inline Veir/Dominance/Basic.lean]: Maybe add "strict dominance" in the doc string in case a non llvm person greps for it?

**Review by luisacicolini — APPROVED** [review]
lgtm but I don't have enough context knowledge to have an opinion about the definitions themselves.

File: Veir/Dominance/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,175 @@
...
+    (ctx : WfIRContext OpInfo) : Prop where
+  | block {block : BlockPtr}
+      (dominance : dominator.DominatesInSSACFGBlock dominated block region ctx) :
+      DominatesInSSACFGRegion dominator dominated region ctx
+  | blocks {dominatorBlock dominatedBlock : BlockPtr}
+      (dominatorParent : (dominator.get! ctx.raw).parent = some dominatorBlock)
+      (dominatedParent : (dominated.get! ctx.raw).parent = some dominatedBlock)
+      (dominatorRegion : dominator.getParentRegion! ctx.raw = some region)
+      (dominatedRegion : dominated.getParentRegion! ctx.raw = some region)
+      (regionSSA : region.hasSSADominance ctx = true)
```
Comment (ineol) [inline Veir/Dominance/Basic.lean]: is it necessary?  I would have thought that since `region.hasSSADominance = false` implies a single block, `dominatorBlock.ProperlyDominates dominatedBlock` implies `region.hasSSADominance = true`

File: Veir/IR/InBounds.lean [hunk 4]
```diff
@@ -27,6 +27,18 @@ variable {ctx ctx' : IRContext OpInfo}
...
+@[grind →]
+theorem OperationPtr.in_bounds_of_parent_eq_some
+    {op : OperationPtr} {block : BlockPtr} {ctx : IRContext OpInfo}
+    (parentEq : (op.get! ctx).parent = some block) :
+    op.InBounds ctx := by
+  apply Classical.byContradiction
+  intro opOutOfBounds
+  have opDefault : op.get! ctx = default := by grind
+  simp only [opDefault] at parentEq
+  contradiction
```
Comment (ineol) [inline Veir/IR/InBounds.lean]:
```suggestion
  grind [Operation.default_parent_eq]
```
after adding `Operation.default_parent_eq` with the related lemma in `Basic.lean`.

**Review by ineol — APPROVED** [review]
Looks like sound defs to me!

File: Veir/Dominance/Basic.lean (hunk 3 above)
Comment (math-fehr) [reply Veir/Dominance/Basic.lean]: So this is the case only if we have `ctx.Verified`. I felt that it was more precise with this definition, but I'm fine changing it to the definition where we have `ctx.Verified`.
In all case, I want these definitions to be entirely opaque, so that lemmas would be the one exposing these things.
Let me know if you prefer the `ctx.Verified` definition.

File: Veir/Dominance/Basic.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/Dominance/Basic.lean]: Oops, fixed here!

**Comment by regehr** [comment]
I'm not sure about proper dominance in graph regions.

MLIR contrains this code in `Dominance.cpp`:
```c++
template <bool IsPostDom>
bool DominanceInfoBase<IsPostDom>::properlyDominatesImpl(
    Block *aBlock, Block::iterator aIt, Block *bBlock, Block::iterator bIt,
    bool enclosingOk) const {
  assert(aBlock && bBlock && "expected non-null blocks");

  // A block iterator (post)dominates, but does not properly (post)dominate,                                  
  // itself unless this is a graph region.                                                                    
  if (aBlock == bBlock && aIt == bIt)
    return !hasSSADominance(aBlock);
```

doesn't this make it return true for the reflexive, graph region case, whereas your code returns false?

**Comment by regehr** [comment]
also maybe remove comments about strict dominance since MLIR seems to only talk about proper dominance

**Comment by math-fehr** [comment]
> doesn't this make it return true for the reflexive, graph region case, whereas your code returns false?

Ohhh, I'm going to take a bit trying to understand that, I probably have misunderstood what proper dominance is, and I think I'll go read more info about it, thanks a lot for spotting it!
Probably proper dominance is not just `dominance and different` for graph regions then, and is something more subtle!

**Comment by regehr** [comment]
> Ohhh, I'm going to take a bit trying to understand that, I probably have misunderstood what proper dominance is, and I think I'll go read more info about it, thanks a lot for spotting it! Probably proper dominance is not just `dominance and different` for graph regions then, and is something more subtle!

I'm not clear on why MLIR made this choice, though

**Review by regehr — APPROVED** [review]
besides the one thing, LGTM!

File: Veir/Dominance/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,242 @@
...
+-/
+inductive BlockPtr.ProperlyDominates (dominator dominated : BlockPtr) (ctx : WfIRContext OpInfo)
+    (enclosingOk : Bool) : Prop where
+  | Ancestor
+      (ancestor : (IRNode.block dominator).Ancestor (.block dominated) ctx)
+      (hNe : dominator ≠ dominated)
+      (hEnclosingOk : enclosingOk = true)
+  | AncestorDominatedInRegion (ancestor : BlockPtr) (region : RegionPtr)
+      (hAncestor : (IRNode.block ancestor).Ancestor (.block dominated) ctx)
+      (h : dominator.ProperlyDominatesInRegion ancestor region ctx)
```
Comment (math-fehr) [inline Veir/Dominance/Basic.lean]: @ineol, is there a way to have both a name for the argument `enclosingOk`, while still defining the argument as an index rather than a parameter (meaning the `Ancestor` case would specify `enclosingOk` as `true`, which should simplify casing?)

**Review by regehr — APPROVED** [review]
this LGTM!

File: Veir/Dominance/Basic.lean (hunk 5 above)
Comment (ineol) [reply Veir/Dominance/Basic.lean]: did you try
```
inductive BlockPtr.ProperlyDominates ... : (enclosingOk : Bool) → Prop
```
or did I misunderstand your question?

Comment (math-fehr) [reply Veir/Dominance/Basic.lean]: No that's perfect, thanks!
